US04767766
Step B: Preparation of Methyl 2-phenylmethylthionicotinate
A solution of 18.3 g (75 mmol) of 2-phenylmethylthionicotinic acid and 16.2 g (100 mmol) of carbonyldiimidazole in 250 mL of dry dimethylformamide was stirred at room temperature for 2 hours. The solution was cooled to 0° and 25 mL of 4M sodium methoxide in methanol was added. After warming to room temperature the solution was partitioned between ether and water and the aqueous layer was washed with two portions of ether. The ether extracts were washed with brine, dried over MgSO4, and concentrated. The residue was crystallized from ether-hexane to afford 17.4 g (89%) of fine white needles, which was used in the next step without further purification.

reactant | 2-phenylmethylthionicotinic acid | 75 mmol, 18.3 g | C1(=CC=CC=C1)CC1=C(C(=S)O)C=CC=N1 | C13H11NOS
reactant | carbonyldiimidazole | 100 mmol, 16.2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | sodium methoxide | 4M, 25 mL | C[O-].[Na+]
solvent | dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | Methyl 2-phenylmethylthionicotinate | 17.4 g, 89% | C1(=CC=CC=C1)CC1=C(C(=S)OC)C=CC=N1 | C14H13NOS
